US07501410B2
2-(4-Benzensulfinyl-phenyl)-4-bromo-2H-phthalazin-1-one:
4-Bromo-2-(4-phenylsulfanyl-phenyl)-2H-phthalazin-1-one (0.095 g, 0.23 mmol) and MCPBA (0.052 g, 0.23 mmol) were stirred at RT in DCM (1 ml) for 1 h. The title compound was obtained after evaporation of the solvent in vacuum and subsequent purification of the raw product by chromatography over silica gel with heptane:DCM (1:1 until 0:1) (0.031 g, 31% yield). 1H-NMR: (400 MHz, CDCl3) 8.49 (1H, d), 7.80-7.99 (5H, m), 7.76 (2H, d), 7.69 (2H, d), 7.48 (3H, m); MS (ESI+)=427.22 (M+H)+.

reactant | 4-Bromo-2-(4-phenylsulfanyl-phenyl)-2H-phthalazin-1-one | 0.23 mmol, 0.095 g | BrC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)SC1=CC=CC=C1 | C20H13BrN2OS
reactant | MCPBA | 0.23 mmol, 0.052 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Benzensulfinyl-phenyl)-4-bromo-2H-phthalazin-1-one | C1(=CC=CC=C1)S(=O)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=N1)Br)=O | C20H13BrN2O2S
